Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfonamides / Penicillins / Decongestant Sinus / Potassium 
Sorbate
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ F with a medical history notable for asthma and 
non-small cell lung carcinoma here with dyspnea. She is 
___-speaking (understands ___ and a little ___ 
and most of the history was obtained utilizing her daughter as 
an ___.

She was diagnosed with Stage 1 NSCLC ___ and treated with 
cyberknife radiosurgery (see details below). ___ is 
her radiation oncologist. Since that time, she reports 
intermittent dyspnea that has reponded to prednisone. 
Specifically, after her last cyberknife treatment ___ she 
noted cough and dyspnea and started on prednisone 60mg daily. 
She has tapered down from this dose twice and had an 
exacerbation of her symptoms at 10mg qod previously.

She recently was able to taper down to 10mg qod and feeling well 
until last week. At that time she noted a return of her chronic 
cough and dyspnea. She also noted nausea, vomitting, and B/L ___ 
edema. No fevers, chills, or sick contacts. No change in sputum 
production. She saw her PCP on ___ (2 days prior to 
admission) and was started on HCTZ. This improved her ___ edema 
but her dyspnea and cough persisted. Her PCP also noted an 
elevated D-dimer and recommended that she present to the ED.

Vitals on arrival to ___ ED: T 96.6, P ___, BP 151/69, 97% on 
RA. A PE CT was performed that revealed no PE but suggested an 
early PNA. She received levofloxacin 750mg daily.

ROS: As above. Other systems reviewed in detail and otherwise 
negative.
 
Past Medical History:
1. Metastatic thymic carcinoma: s/p excision, XRT, pleurodesis
for recurrent right-sided pleural effusion ___, and 5 cycles 
of palliative chemotherapy with carboplatin and etoposide. 
___ was her oncologist. 
2. FNA performed ___ demonstrated a right lung nodule 
consistent with non-small cell lung cancer. Staging
by PET/CT and MRI head revealed Stage 1 (T1N0M0) disease. She is 
not a surgical candidate and chemo is not indicated. She was 
treated with cyberknife radiosurgery, last treatment ___.
3. Asthma diagnosed at age ___, treated at ___, previously 
hospitalized, never intubated.  
4. Post nasal drip  
5. Impaired glucose tolerance. Exacerbated by recent steroids. 
Has been on metformin in the past but did not tolerate GI side 
effects.
6. Hypertension  
7. GERD
8. Histoy of C diff infection
 
Social History:
___
Family History:
No known family history of cancer. Family history of asthma - 
one daughter and ___ grandchildren affected. No FH of CAD or DM.
 
Physical Exam:
Vital Signs: T 98.3, P 97, BP 144/83, 96% on RA.

Physical examination:
- Gen: Well-appearing in NAD.
- HEENT: Conj/sclera/lids normal, PERRL, EOM full, and no 
nystagmus. Oropharynx clear w/out lesions.
- Chest: Normal respirations and breathing comfortably on room 
air. Rales at Right base with no wheezes, egophany, or dullness 
to percussion.
- CV: PMI normal size and not displaced. Regular rhythm. Normal 
S1, S2. No murmurs or gallops. JVP 7 cm. 
- Abdomen: Normal bowel sounds. Soft, nontender, nondistended. 
- Skin: No lesions, bruises, rashes.
 
Pertinent Results:
Chemistries:
 - ___ 12:30PM   GLUCOSE-86 UREA N-11 CREAT-1.0 SODIUM-138 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-27 ANION GAP-15 CK(CPK)-87 
CK-MB-2 cTropnT-<0.01

Hematology:
 - ___ 12:30PM WBC-7.0 (NEUTS-67.1 ___ MONOS-5.4 
EOS-4.0 BASOS-0.4) RBC-4.82 HGB-13.4 HCT-40.1 MCV-83 MCH-27.7 
MCHC-33.3 RDW-15.7*
PLT COUNT-262

Coagulation Studies:
 - ___ 12:30PM   ___ PTT-21.5* ___

Urine Studies:
 - ___ 03:45PM URINE  COLOR-Straw APPEAR-Clear SP 
___ BLOOD-NEG NITRITE-NEG PROTEIN-NEG GLUCOSE-NEG 
KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-NEG

Chest CT: 1. No PE to the subsegmental levels. No dissection.
2. Postradiation fibrosis of the right lung, with new small 
right pleural
effusion with interfissural fluid. As before, there is adjacent 
atalectasis, however there is increased consolidation within the 
right base which may represent an early pneumonia. 3. Unchagned 
severe compression defect of a mid-thoracic vertebral body. 
 

 
Brief Hospital Course:
Ms. ___ presents with an acute exacerbation of her chronic 
SOB/cough. This episode is also associated with N/V and leg 
swelling. Differential for her symptoms include pneumonia, 
thymic cancer recurrence, progression of her NSCLC, or asthma 
exacerbation. She also has new Q wave on ECG and may have had an 
infarct though this is not a typical presentation for CHF.

Her decreased peak flow is consistent with an asthma 
exacerbation but her N/V/malaise may be from a pneumonia. Pt was 
treated for healthcare associated pneumonia and consulting with 
pulmonology.

1. Healthcare Associated pneumonia
 - levofloxacin 750mg daily
 - at discharge was ambulating without o2 with o2 sat of 92%

2. Asthma
 - increased prednisone to 20mg daily
 - continue Flovent/Serevent and Singulair

3. Diabetes mellitus
 - continued care

4. Hypertension
 - continue Diovan and HCTZ

Full Code, discussed with patient and family
plan of care d/w daughter ___ in person who speaks ___ 
well. 
 
Medications on Admission:
Allegra 180 mg Tab 1 Tablet(s) by mouth once a day
Diovan 320 mg Tab 1 Tablet(s) by mouth once a day
Singulair 10 mg Tab 1 Tablet(s) by mouth once a day
Fish Oil 1,000 mg Capsule daily
Centrum Silver Tab 1 Tablet(s) by mouth daily
Vitamin D 1,000 unit Cap daily
Caltrate 600mg 1 Tablet(s) by mouth once a day
Aspirin 81 mg Tab, Delayed Release 1 Tablet(s) by mouth daily
Lorazepam 1 mg Tab 1 Tablet(s) by mouth twice a day as needed 
for sleep and anxiety
Ventolin HFA 90 mcg/Actuation Aerosol Inhaler 2 puffs inhalation 
every ___ hours as needed
Albuterol Sulfate 0.63 mg/3 mL Neb Solution 1 ampule inhalation 
three times a day
Fosamax 70 mg Tab 1 Tablet(s) by mouth weekly
Prednisone 10 mg Tab every other day
Oxycodone 10mg TID as needed for pain
Ferrous Sulfate 325 mg (65 mg Elemental Iron) Tab 1 tab 
Tablet(s) by mouth once a day 
Ranitidine 300 mg Cap 1 Capsule(s) by mouth twice a day
Flovent HFA 220 mcg/Actuation Aerosol Inhaler ___ puffs(s) 
inhalation twice a day
Serevent Diskus 50 mcg/Dose for Inhalation 1 puff inhaled Twice 
daily
Hydrochlorothiazide 25 mg Tab Oral 1 Tablet(s) Once Daily
 
Discharge Medications:
Allegra 180 mg Tab 1 Tablet(s) by mouth once a day
Diovan 320 mg Tab 1 Tablet(s) by mouth once a day
Singulair 10 mg Tab 1 Tablet(s) by mouth once a day
Fish Oil 1,000 mg Capsule daily
Vitamin D 1,000 unit Cap daily
Aspirin 81 mg Tab, Delayed Release 1 Tablet(s) by mouth daily
Lorazepam 1 mg Tab 1 Tablet(s) by mouth twice a day as needed 
for sleep and anxiety
Ventolin HFA 90 mcg/Actuation Aerosol Inhaler 2 puffs inhalation 
every ___ hours as needed
Albuterol Sulfate 0.63 mg/3 mL Neb Solution 1 ampule inhalation 
three times a day
Fosamax 70 mg Tab 1 Tablet(s) by mouth weekly
Prednisone 20 mg Tab every other day
Oxycodone 10mg TID as needed for pain
Ranitidine 300 mg Cap 1 Capsule(s) by mouth twice a day
Flovent HFA 220 mcg/Actuation Aerosol Inhaler ___ puffs(s) 
inhalation twice a day
Serevent Diskus 50 mcg/Dose for Inhalation 1 puff inhaled Twice 
daily
levofloxacin 750mg x 3 more doses, starting on tue ___
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
healthcare associated pneumonia
___

 
Discharge Condition:
stable
 
Discharge Instructions:
seek immediate medical attention if your sxs worsen or change
do not take any iron or any calcium containing products until 
you are through with antibiotic course and speak with your pcp. 

 
Followup Instructions:
___